US07368578B2
A mixture of 4-(4-chloromethyl-5-methyl-1,3-thiazol-2-yl)morpholine (5.0 g), vanillin (3.27 g), potassium carbonate (2.97 g) and N,N-dimethylformamide (100 mL) was stirred at 90° C. for 3 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration to give 3-methoxy-4-[(5-methyl-2-morpholin-4-yl-1,3-thiazol-4-yl)methoxy]benzaldehyde as crystals (7.25 g, yield 96%). Recrystallization from hexane-ethyl acetate gave colorless prism crystals. melting point: 127-128° C.

reactant | 4-(4-chloromethyl-5-methyl-1,3-thiazol-2-yl)morpholine | 5.0 g | ClCC=1N=C(SC1C)N1CCOCC1 | C9H13ClN2OS
reactant | vanillin | 3.27 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | potassium carbonate | 2.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3-methoxy-4-[(5-methyl-2-morpholin-4-yl-1,3-thiazol-4-yl)methoxy]benzaldehyde | 7.25 g, yield 96% | COC=1C=C(C=O)C=CC1OCC=1N=C(SC1C)N1CCOCC1 | C17H20N2O4S
